US05451582
Step 4: 1,3-Dihydro-1,5-dimethyl-3(R,S)[-(benzyl oxycarbonyl )-amino]-2H- 1,4-benzodiazepin-2-one
A solution of 1,3-dihydro-5-methyl-3(R,S)[-(benzyloxycarbonyl )-amino]-2H- 1,4-benzodiazepin-2-one (2 g, 6.2 mmol) in dimethylformamide (20 ml), under an atmosphere of nitrogen, was treated with sodium hydride (0.26 g of a 57% dispersion in mineral oil, 6.2 mmol) in one portion, at -10° C. After 30 min, iodomethane (0.39 ml, 6.2 mmol) was added and the resulting mixture stirred at room temperature for 3 h. The solvent was then evaporated and the crude residue partitioned between water (20 ml) and dichloromethane (3×20 ml). The combined organic phase was washed with brine (20 ml), dried (MgSO4) and evaporated. The residue was triturated with ether to afford the title compound (1.05 g, 50%) as a colourless solid. 1H NMR (360 MHz, CDCl3) δ 2.52 (3H, s), 3.42 (3H, s), 5.0-5.25 (3H, m), 6.65 (1H, d, J=8 Hz), 7.2-7.7 (9H, m).

reactant | 1,3-dihydro-5-methyl-3(R,S)[-(benzyloxycarbonyl )-amino]-2H- 1,4-benzodiazepin-2-one | 6.2 mmol, 2 g | CC1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)OCC2=CC=CC=C2 | C18H17N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 6.2 mmol, 0.39 ml | IC | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3-Dihydro-1,5-dimethyl-3(R,S)[-(benzyl oxycarbonyl )-amino]-2H- 1,4-benzodiazepin-2-one | 1.05 g, 50% | CN1C(C(N=C(C2=C1C=CC=C2)C)NC(=O)OCC2=CC=CC=C2)=O | C19H19N3O3
